US08445480B2
Step A. 4-Hydroxy-3-methyl-5-nitrobenzonitrile
To a solution of 4.0 g of 4-hydroxy-3-iodo-5-nitrobenzonitrile in 240 ml dimethylformamide was added 4.13 g of methyl boronic acid, and 8.99 g of cesium carbonate. The mixture was then degassed by bubbling argon gas through it for 30 min. Tris(dibenzylidineacetone)dipalladium (1.38 g) was added, and the mixture was then heated to 130° C. for 15 h. Analysis of the crude mixture via LC/MS showed complete formation of the desired product with ca. 14% reduction of the iodide. The mixture was cooled to room temperature, diluted with water (300 ml) and acetic acid (˜50 ml), and then extracted with ethyl acetate (5×300 ml). The organic layers were dark red-brown to light green-yellow in succession. The combined organic layers were extracted with water (2×300 ml) and then 2M sodium hydroxide (3×300 ml). The aqueous layers were red to yellow in succession. The combined aqueous layers (containing the phenol), were made slightly acidic by addition of 100 ml of acetic acid and then extracted with ethyl acetate (3×300 ml). These organic layers were combined, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified via flash chromatography (Rf=0.17 in 2/1 hexanes/ethyl acetate) on a Biotage Horizon, 65i column, eluting with 1 column volume of 5% ethyl acetate in hexanes, followed by a linear gradient from 5 to 80% of ethyl acetate in hexanes over 10 column volumes to provide 1.01 g (41%) of the title compound. The base-extracted organic layer was concentrated in vacuo and purified via flash chromatography on a Biotage Horizon in the same way to provide an additional 305 mg (12%) of the title compound. Mass spectrum (ESI) 177.0 (M−1). 1H NMR (500 MHz, CDCl3): δ 11.23 (s, 1H), 8.33 (s, 1H), 7.68 (s, 1H), 2.39 (s, 3H).

reactant | 4-hydroxy-3-iodo-5-nitrobenzonitrile | 4.0 g | OC1=C(C=C(C#N)C=C1[N+](=O)[O-])I | C7H3IN2O3
reactant | methyl boronic acid | 4.13 g | CB(O)O | CH5BO2
reactant | cesium carbonate | 8.99 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 240 ml | CN(C=O)C | C3H7NO
product | 4-Hydroxy-3-methyl-5-nitrobenzonitrile | 1.01 g, 41% | OC1=C(C=C(C#N)C=C1[N+](=O)[O-])C | C8H6N2O3
